US09169272B2
Tetrabutylammonium fluoride (1M in THF) (10.57 ml, 10.57 mmol) was added dropwise to stirring solution of 3,5-bis(((tert-butyldimethylsilyl)oxy)methyl)-N-(2-(2-(2-methoxyethoxyl)ethoxy)ethyl)-N-(2-methyl-2-(methyldisulfanyl)propyl)aniline (3.5 g, 5.29 mmol) in anhydrous THF (65 ml) at 0° C. in an ice bath. Following addition the mixture was stirred at ambient temperature for two hours. The mixture was quenched with saturated ammonium chloride and extracted with ethyl acetate. The extracts were washed with water and brine, dried with magnesium sulfate, filtered and concentrated under reduced pressure. Purification by silica gel chromatography (MeOH/DCM) yielded (5-((2-(2-(2-methoxyethoxyl)ethoxy)ethyl)(2-methyl-2-(methyldisulfanyl)propyl)amino)-1,3-phenylene)dimethanol (2 g, 87%). 1H NMR (400 Hz, CDCl3): δ 6.76 (s, 2H), 6.63 (s, 1H), 4.55 (s, 4H), 3.65-3.51 (m, 14H), 3.35 (s, 3H), 2.44 (s, 3H), 1.33 (s, 6H); 13C NMR (400 Hz, CDCl3): δ 149.0, 142.35, 114.0, 111.1, 71.98, 70.7, 70.6, 70.5, 67.6, 65.5, 59.75, 59.1, 53.9, 51.9, 26.6, 25.7, 20.75; MS (m/z): found 456.2 (M+Na)+. See FIG. 46.

reactant | Tetrabutylammonium fluoride | 10.57 mmol, 1M, 10.57 ml | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | 3,5-bis(((tert-butyldimethylsilyl)oxy)methyl)-N-(2-(2-(2-methoxyethoxyl)ethoxy)ethyl)-N-(2-methyl-2-(methyldisulfanyl)propyl)aniline | 5.29 mmol, 3.5 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(N(CC(C)(SSC)C)CCOCCOCCOC)C=C(C1)CO[Si](C)(C)C(C)(C)C | C32H63NO5S2Si2
solvent | THF | 65 ml | C1CCOC1 | C4H8O
product | (5-((2-(2-(2-methoxyethoxyl)ethoxy)ethyl)(2-methyl-2-(methyldisulfanyl)propyl)amino)-1,3-phenylene)dimethanol | 2 g, 87% | COCCOCCOCCN(C=1C=C(C=C(C1)CO)CO)CC(C)(SSC)C | C20H35NO5S2
